* c:\users\shanthipriya\desktop\madeeasy\fossee\esim\library\subcircuitlibrary\internal72\internal72.cir

* u3  net-_u3-pad1_ net-_u1-pad1_ net-_u3-pad3_ d_nand
* u4  net-_u2-pad2_ net-_u4-pad2_ net-_u4-pad3_ d_nand
* u5  net-_u3-pad3_ net-_u4-pad3_ net-_u5-pad3_ d_nand
* u2  net-_u1-pad3_ net-_u2-pad2_ d_inverter
* u7  net-_u5-pad3_ net-_u1-pad2_ net-_u1-pad6_ net-_u1-pad7_ net-_u4-pad2_ net-_u3-pad1_ d_dff
* u8  net-_u4-pad2_ net-_u6-pad2_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ d_dff
* u6  net-_u1-pad2_ net-_u6-pad2_ d_inverter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ? ? net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ port
a1 [net-_u3-pad1_ net-_u1-pad1_ ] net-_u3-pad3_ u3
a2 [net-_u2-pad2_ net-_u4-pad2_ ] net-_u4-pad3_ u4
a3 [net-_u3-pad3_ net-_u4-pad3_ ] net-_u5-pad3_ u5
a4 net-_u1-pad3_ net-_u2-pad2_ u2
a5 net-_u5-pad3_ net-_u1-pad2_ net-_u1-pad6_ net-_u1-pad7_ net-_u4-pad2_ net-_u3-pad1_ u7
a6 net-_u4-pad2_ net-_u6-pad2_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ u8
a7 net-_u1-pad2_ net-_u6-pad2_ u6
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u3 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u4 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u5 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u7 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u8 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
