* c:\users\shanthipriya\esim-workspace\7447\7447.cir

.include 74ls47.sub
v1  w gnd pulse(0 5 0 1n 1n 16m 32m)
v2  x gnd pulse(0 5 0 1n 1n 8m 16m)
v3  y gnd pulse(0 5 0 1n 1n 4m 8m)
v4  z gnd pulse(0 5 0 1n 1n 2m 4m)
v5 net-_x1-pad5_ gnd  dc 5
v6 net-_x1-pad6_ gnd  dc 5
v7 net-_x1-pad7_ gnd  dc 5
* u1  z plot_v1
* u2  y plot_v1
* u3  x plot_v1
* u4  w plot_v1
* u5  a plot_v1
* u6  b plot_v1
* u7  c plot_v1
* u8  d plot_v1
* u9  e plot_v1
* u10  f plot_v1
* u11  g plot_v1
x1 w x y z net-_x1-pad5_ net-_x1-pad6_ net-_x1-pad7_ a b c d e f g ? ? 74ls47
.tran 1e-03 32e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(z)+6v(y)+12 v(x)+18 v(w)+24 v(a)+30v(b)+36 v(c)+42v(d)+48 v(e)+54v(f)+60v(g)
.endc
.end
