* c:\users\shanthipriya\esim-workspace\375_ic3\375_ic3.cir

.include 375.sub
v2  1d gnd pulse(0 5 0 1n 1n 4m 8m)
v3  2d gnd pulse(0 5 0 1n 1n 8m 16m)
v4  3d gnd pulse(0 5 0 1n 1n 16m 32m)
v5  4d gnd pulse(0 5 0 1n 1n 32m 64m)
v1  e gnd pulse(0 5 0 1n 1n 2m 4m)
* u4  q0 plot_v1
* u5  q1 plot_v1
* u6  q2 plot_v1
* u7  q3 plot_v1
* u8  q0_1 plot_v1
* u9  q0_2 plot_v1
* u10  q0_3 plot_v1
* u3  q0_4 plot_v1
* u1  1d e 2d 3d 4d net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ adc_bridge_5
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ q0 q1 q2 q3 q0_1 q0_2 q0_3 q0_4 dac_bridge_8
x1 net-_u1-pad6_ net-_u1-pad7_ net-_u2-pad1_ net-_u1-pad8_ net-_u2-pad2_ net-_u1-pad9_ net-_u2-pad3_ net-_u1-pad10_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ 375
* u13  1d plot_v1
* u14  e plot_v1
* u15  2d plot_v1
* u11  3d plot_v1
* u12  4d plot_v1
a1 [1d e 2d 3d 4d ] [net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] [q0 q1 q2 q3 q0_1 q0_2 q0_3 q0_4 ] u2
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(1d)+6 v(e)+12v(q0)+18v(q0_1)
plot v(2d)+6 v(e)+12v(q1)+18 v(q0_2)
plot v(3d)+6 v(e)+12v(q2)+18v(q0_3)
plot v(4d)6 v(e)+12v(q3)+18v(q0_4)
.endc
.end
